US04447425
Sodium borohydride (9.40 g) was added portionwise to a stirred solution of 2β-acetyloxy-16β-(1-piperidinyl)-5α-androstan-17-one (46.99 g) in methanol (235 ml). After 1 h, water (300 ml) was added to precipitate the product as a gum, which was extracted into diethyl ether (300 ml). The extract was washed neutral with water (3×300 ml), dried (MgSO4) and evaporated to dryness. Crystallisation of the residue from methanol afforded 16β-(1-piperidinyl)-5α-androstane-2β,17β-diol 2-acetate (25.49 g), m.p. 162°-166° C., [α]D +29.1° (c 0.45 in CHCl3).

reactant | Sodium borohydride | 9.40 g | [BH4-].[Na+]
reactant | 2β-acetyloxy-16β-(1-piperidinyl)-5α-androstan-17-one | 46.99 g | C(C)(=O)O[C@@H]1CC[C@@H]2CC[C@H]3[C@@H]4C[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(C1)C)=O)N1CCCCC1 | C26H41NO3
reactant | water | 300 ml | O | H2O
solvent | methanol | 235 ml | CO | CH4O
product | 16β-(1-piperidinyl)-5α-androstane-2β,17β-diol 2-acetate | 25.49 g | C(C)(=O)O[C@@H]1CC[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCCC1 | C26H43NO3
